US06825354B2
Ethyl(2-methoxyphenyl)[(4-hydroxyphenyl)sulfanyl]acetate was prepared according to the general method as outlined in example 1 (step 1), starting from ethyl bromo(2-methoxyphenyl)acetate (24 g, 87.5 mmol) and 4-mercaptophenol (11.0 g, 87.5 mmol); 24.9 g amber colored oil. Yield 89%; MS: 320 (M+H)+

reactant | ethyl bromo(2-methoxyphenyl)acetate | 87.5 mmol, 24 g | BrC(C(=O)OCC)C1=C(C=CC=C1)OC | C11H13BrO3
reactant | 4-mercaptophenol | 87.5 mmol, 11.0 g | SC1=CC=C(C=C1)O | C6H6OS
product | Ethyl(2-methoxyphenyl)[(4-hydroxyphenyl)sulfanyl]acetate | Yield 89% | C(C)OC(C(SC1=CC=C(C=C1)O)C1=C(C=CC=C1)OC)=O | C17H18O4S
